US09193741B2
Synthesis of 4-(5-amino-2-(pyridin-3-yl)thiazolo[5,4-d]pyrimidin-7-yl)-N -(4-methoxybenzyl)piperazine-1-carboxamide
This compound was prepared from 7-(piperazin-1-yl)-2-(pyridin-3-yl)thiazolo[5,4-d]pyrimidin-5-amine using 4-methoxybenzyl isocyanate in a yield of 40%, according to the procedure for the synthesis of example 42.

reactant | 7-(piperazin-1-yl)-2-(pyridin-3-yl)thiazolo[5,4-d]pyrimidin-5-amine | N1(CCNCC1)C=1C2=C(N=C(N1)N)SC(=N2)C=2C=NC=CC2 | C14H15N7S
reactant | 4-methoxybenzyl isocyanate | COC1=CC=C(CN=C=O)C=C1 | C9H9NO2
product | 4-(5-amino-2-(pyridin-3-yl)thiazolo[5,4-d]pyrimidin-7-yl)-N -(4-methoxybenzyl)piperazine-1-carboxamide | yield of 40% | NC=1N=C(C2=C(N1)SC(=N2)C=2C=NC=CC2)N2CCN(CC2)C(=O)NCC2=CC=C(C=C2)OC | C23H24N8O2S
